US06140351
In a manner similar to that described in Paragraph A above, N-(5-chloropyridin-2-yl)-2-nitro-3-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-chlorobenzamide (13 g, 26 mmol) was reacted with tin(II) chloride dihydrate (29 g, 130 mmol) in pyridine (100 mL) to afford 7.1 g (60% yield) of N-(5-chloropyridin-2-yl)-2-amino-3-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-chlorobenzamide, as a yellow solid; NMR (DMSO-d6) 10.8 (s, 1), 8.4 (d, 1), 8.1 (d, 1), 7.9 (dd, 1), 7.6 (d, 1), 7.1 (d, 1), 6.2 (d, 2), 3.3 (m, 4), 2.7 (br, 4), 1.4 (s, 9) ppm.

reactant | N-(5-chloropyridin-2-yl)-2-nitro-3-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-chlorobenzamide | 26 mmol, 13 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])=O | C21H23Cl2N5O5
reactant | tin(II) chloride dihydrate | 130 mmol, 29 g | O.O.[Sn](Cl)Cl
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-chloropyridin-2-yl)-2-amino-3-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-chlorobenzamide | 7.1 g, 60% yield | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C)N)=O | C21H25Cl2N5O3
